US07498337B2
5-(2-methylphenyl)-1H-pyrrole-3-carbaldehyde
5-Bromo-1H-pyrrole-3-carbaldehyde (100 mg), 2-methylphenylboronic acid (94 mg) and sodium carbonate (146 mg) were suspended in a mixed solvent of 1,2-dimethoxyethane (5 mL) and water (2 mL), and the mixture was sufficiently degassed under a nitrogen atmosphere. Tetrakis(triphenylphosphine)palladium (33 mg) was added, and the mixture was further degassed and refluxed at 105° C. for 24 hr. The reaction mixture was allowed to cool to room temperature, and the mixture was extracted with water and ethyl acetate. The extract was washed with saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane-ethyl acetate=8:1→3:1) to give the title compound as colorless crystals (yield 72 mg, 68%).

reactant | 5-Bromo-1H-pyrrole-3-carbaldehyde | 100 mg | BrC1=CC(=CN1)C=O | C5H4BrNO
reactant | 2-methylphenylboronic acid | 94 mg | CC1=C(C=CC=C1)B(O)O | C7H9BO2
reactant | sodium carbonate | 146 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | 1,2-dimethoxyethane | 5 mL | COCCOC | C4H10O2
solvent | water | 2 mL | O | H2O
product | 5-(2-methylphenyl)-1H-pyrrole-3-carbaldehyde | yield 72 mg, 68% | CC1=C(C=CC=C1)C1=CC(=CN1)C=O | C12H11NO
